US04684658
A suspension of N-nicotinoyl-4-hydroxyproline (34 g) in a mixture of 2-chloroacrylonitrile (115 cc) and of acetic anhydride (150 cc) is heated at a temperature of about 90° C. for 3 hours and 40 minutes. The solution obtained is concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 70° C. The residue obtained is suspended in a 5 N aqueous solution of sodium hydroxide (500 cc) and the resulting suspension is extracted 4 times with ethyl acetate (1,250 cc in total). The organic extracts are combined, washed 4 times with distilled water (1,000 cc in total), dried over anhydrous magnesium sulphate, treated with decolourising charcoal (0.5 g), filtered and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 60° C. A crude product (13 g) is thus obtained, which is dissolved in boiling isopropanol (130 cc). The solution obtained is filtered hot and the filtrate is cooled at a temperature of about 20° C. for 2 hours. The crystals which have appeared are separated off by filtration, washed twice with isopropanol (50 cc in total) and 3 times with diethyl ether (150 cc in total), and then dried under reduced pressure (20 mm Hg; 2.7 kPa) at a temperature of about 20° C. in the presence of potassium hydroxide pellets. 2-Hydroxy-5-(3-pyridyl)-2,3-dihydro-1H-pyrrolizine-7-carbonitrile (5.6 g) is thus obtained in the form of beige crystals melting at 190° C.

reactant | N-nicotinoyl-4-hydroxyproline | 34 g | C(C1=CN=CC=C1)(=O)N1[C@H](C(=O)O)CC(C1)O | C11H12N2O4
reactant | acetic anhydride | 150 cc | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | 500 cc | [OH-].[Na+]
reactant | isopropanol | 130 cc | C(C)(C)O | C3H8O
reactant | 2-chloroacrylonitrile | 115 cc | ClC(C#N)=C | C3H2ClN
product | 2-Hydroxy-5-(3-pyridyl)-2,3-dihydro-1H-pyrrolizine-7-carbonitrile | 5.6 g | OC1CC2=C(C=C(N2C1)C=1C=NC=CC1)C#N | C13H11N3O
